US04035512
To 100 ml. of ethanol are added 10 g. of 5-chloromethyl-6-hydroxy-3,4-dihydro-1(2H)-naphthalenone and 5.4 g. of sodium methanesulfinate, and the mixture is heated on reflux for 2 hours. Then, the reaction mixture is concentrated and the residue is dissolved in chloroform and washed with water. The chloroform layer is dried in the conventional manner and the chloroform is distilled off. The procedure provides 5-methanesulfonylmethyl-6-hydroxy-3,4-dihydro-1(2H)-naphthalenone melting at 225° -230° C(decomp.).

reactant | 5-chloromethyl-6-hydroxy-3,4-dihydro-1(2H)-naphthalenone | ClCC1=C2CCCC(C2=CC=C1O)=O | C11H11ClO2
reactant | sodium methanesulfinate | CS(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-methanesulfonylmethyl-6-hydroxy-3,4-dihydro-1(2H)-naphthalenone | CS(=O)(=O)CC1=C2CCCC(C2=CC=C1O)=O | C12H14O4S
